US08791272B2
Naphthalen-2-yl-methanethiol
To a stirred solution of 2-(bromomethyl)naphthalene (10 g) in ethanol (40 ml) was added thiourea (3.79 g) and the reaction heated to reflux. After 6 h, the reaction was cooled in an ice bath, the precipitate was filtered off and washed with ice-cold ethanol. This was then added to NaOH solution (25%, 30 ml) and heated to reflux. After 2 h, the reaction was cooled to room temperature and water (200 ml) was added. The mixture was extracted with diethylether 3 times, the organic phase was separated, dried and concentrated to afford 5 g of the title compound.

reactant | 2-(bromomethyl)naphthalene | 10 g | BrCC1=CC2=CC=CC=C2C=C1 | C11H9Br
reactant | thiourea | 3.79 g | NC(=S)N | CH4N2S
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | Naphthalen-2-yl-methanethiol | 5 g | C1=C(C=CC2=CC=CC=C12)CS | C11H10S
